US07932279B2
5′-(1-Butyl-1H-tetrazol-5-yl)-2′,4′-dihydroxy-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide (48)
This product was synthesized using 2′,4′-bis-benzyloxy-5′-(1-butyl-1H-tetrazol-5-yl)-biphenyl-3-carboxylic acid and 2-methoxyisopropylamine as described in general procedure D. LCMS: 426 [M+H].

reactant | 2′,4′-bis-benzyloxy-5′-(1-butyl-1H-tetrazol-5-yl)-biphenyl-3-carboxylic acid | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=NN=NN1CCCC)C1=CC(=CC=C1)C(=O)O | C32H30N4O4
reactant | 2-methoxyisopropylamine | CC(COC)N | C4H11NO
product | 5′-(1-Butyl-1H-tetrazol-5-yl)-2′,4′-dihydroxy-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide | COCC(C)NC(=O)C=1C=C(C=CC1)C1=C(C=C(C(=C1)C1=NN=NN1CCCC)O)O | C22H27N5O4
